US07091353B2
A mixture of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (0.60 g, 2.2 mmol) and cyclopropanecarbonyl chloride (0.4 mL, 4.4 mmol) in THF (20 mL) was heated to reflux for 15 h. To the mixture was added methanol (5 mL). The solvent was removed in vacuo to give a solid. The solid was slurried in ether (30 mL0 for 1 h. The suspension was filtered and washed with ether (30 mL) to give cyclopropanecarboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-amide as a solid (630 mg, 84% yield): mp, 237–239° C.; 1H NMR (DMSO-d6) δ 0.87–0.90 (m, 4H, 2CH2), 1.93–2.09 (m, 2H, CH, CHH), 2.49–2.65 (m, 2H, CH2), 2.64–2.96 (m, 1H, CHH), 5.15 (dd, J=5.2, 12.6 Hz, 1H, NCH), 7.61 (d, J=7.2 Hz, 1H, Ar), 7.82 (t, J=7.7 Hz, 1H, Ar), 8.41 (d, J=8.3 Hz, 1H, Ar), 9.99 (s, 1H, NH), 11.16 (s, 1H, NH); 13C NMR (DMSO-d6) δ 8.10, 14.93, 22.00, 30.93, 48.92, 117.07, 118.30, 126.69, 131.49, 135.97, 136.43, 166.67, 167.57, 169.77, 172.55, 172.74; Anal Calcd for C17H15N3O5: C, 59.82; H, 4.43; N, 12.31. Found: C, 59.50; H, 4.39; N, 12.04.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 2.2 mmol, 0.60 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | cyclopropanecarbonyl chloride | 4.4 mmol, 0.4 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | methanol | 5 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | cyclopropanecarboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-amide | 630 mg, 84% yield | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(=O)C1CC1)=O)=O | C17H15N3O5
